US05444080
6-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5yl]-4-hexenoic acid was converted to the methyl ester with methanol and ethereal hydrochloric acid. This methyl ester (302 mg) in methanol was hydrogenated with platinum oxide (25 mg) at one atmosphere of hydrogen for 2 hours. The isolated crude reduced ester was chromatographed over silica gel with 3:1 ethyl acetate/hexane to provide 0.125 g of methyl 6-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5yl]hexanoate. Basic hydrolysis of this ester with potassium hydroxide as described in Example 11(ii) provided 6-[2-n- butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-hexanoic acid hydrochloride; mp 144°-145° C. (from acetone).

reactant | 6-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5yl]-4-hexenoic acid | C(CCC)C=1N(C(=CN1)CC=CCCC(=O)O)CC1=C(C=CC=C1)Cl | C20H25ClN2O2
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
catalyst | platinum oxide | 25 mg | [Pt]=O
product | methyl 6-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5yl]hexanoate | 0.125 g | C(CCC)C=1N(C(=CN1)CCCCCC(=O)OC)CC1=C(C=CC=C1)Cl | C21H29ClN2O2
